US07700628B2
B. Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-isopropoxybenzoate
To a solution of methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-hydroxy-benzoate (0.735 g, 2.1 mmol), triphenylphosphine (0.551 g, 2.1 mmol), and isopropanol (0.158 mL, 2 mmol) in tetrahydrofuran was added diisopropyl azodicarboxylate (0.433 mL, 2.2 mmol) dropwise. The solution was sonicated for 30 minutes. The reaction mixture was purified without workup by RPLC (EtOAc/Hexane 3:7) to give 0.675 g (86%) of pure product.

reactant | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-hydroxy-benzoate | 2.1 mmol, 0.735 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)O | C18H25NO6
reactant | triphenylphosphine | 2.1 mmol, 0.551 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropanol | 2 mmol, 0.158 mL | C(C)(C)O | C3H8O
reactant | diisopropyl azodicarboxylate | 2.2 mmol, 0.433 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-isopropoxybenzoate | 0.675 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)OC(C)C | C21H31NO6
